US06362373B1
A 100-mL, single-neck flask equipped with a magnetic stirring bar and a reflux condenser fitted with a nitrogen bubbler was charged with 7.71 g (0.051 mol) of 1-adamantylamine, 22.83 g (0.150 mol) of (S)-(−)-limonene oxide, and 4.0 mL of deionized water. The mixture was heated to reflux and held there for 31 days. The reaction mixture was filtered to remove some insoluble material. The filter paper was washed with a small amount of n-heptane. Upon cooling, the filtrate solidified to a nearly completely solid mass. The solid was isolated by filtration, washed with a small amount of n-heptane, air dried, and vacuum dried at 40° C. The filtrate was cooled in a freezer to give a second crop of crystals that were isolated and dried in the same manner. The two crops of crystals were combined and recrystallized from 75 mL of n-heptane to give 6.16 g of (1R,2R,4S)-2-(1-adamantylamino)-1-methyl-4-(1-methylethenyl)cyclohexanol as a white solid, mp 94-96° C.

reactant | 1-adamantylamine | 0.051 mol, 7.71 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | (S)-(−)-limonene oxide | 0.150 mol, 22.83 g | CC(=C)[C@H]1CC[C@@]2([C@H](C1)O2)C | C10H16O
solvent | water | 4.0 mL | O | H2O
product | (1R,2R,4S)-2-(1-adamantylamino)-1-methyl-4-(1-methylethenyl)cyclohexanol | 6.16 g | C12(CC3CC(CC(C1)C3)C2)N[C@H]2[C@@](CC[C@@H](C2)C(=C)C)(O)C | C20H33NO
